Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache, Dizziness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with HTN, HLD, h/o renal transplant ___ HTN nephropathy in
___ (on azathioprine, cyclosporine, prednisone) who presents
with dizziness and HA.

Pt reports that 1 month ago, she was switched off amlodipine 5mg
due to leg swelling and started on carvedilol 12.5mg instead. 
She
started having some slight dizziness and "light" headaches that
she took Tylenol for. 1 week ago on ___, it got worse so she
went to ___ ED. There, she was found to have SBPs in
200s so her carvedilol was increased to 25mg. On ___, she 
went
to her PCP with cough, clear runny nose, and chills. Her PCP
diagnosed her with a sinus infection and started her on
amoxicillin 500 BID. Today, she continued to feel dizzy so she
took an additional 12.5mg of carvedilol for a total of 37.5mg.
Still wasn't feeling better so she was referred to the ED. 

She reports her dizziness is intermittent, has noticed possibly
it's worse when she stands up. Describes it as a "fog" or like
she is "walking on clouds." Headaches described as diffuse and 
at
parietal regions. On ROS, +cough, chills, clear minor rhinorrhea
without purulence in last few days, also some intermittent SOB.
Denies frank fever, visual changes, chest pain, palpitations,
nausea, vomiting, diarrhea, frothy urine, hematuria,
hematochezia, other bleeding. 

In the ED:

Initial vital signs: T 97.8  HR 62 BP 208/102 RR 17 O2 sat 98% 
RA

 
Exam notable for:
Gen: sitting in bed in NAD
HEENT: MMM. Pharyngeal erythema. difficult to appreciate if
papilledema on fundoscopy
CV: RRR nl S1/S2 no mrg
Chest: CTABL
Abd: soft, NT/ND, +BS
Extr: bilateral 2+ nonpitting edema, per pt this is chronic
Neuro: CNII-XII intact. Motor ___ b/l UE and ___. SILT intact
throughout. Romberg (-). Gait and tandem gait wnl.

Labs were notable for mild BUN elevation to 23 and mild
leukocytosis to 10.3. Normal UA, urine/blood cx pending.

Studies performed include CT Head without acute process, CXR
without acute process, and a normal renal transplant US. 

Patient was given acetaminophen 1000 mg in ED, home cyclosporine
75 mg.

Consults: renal transplant, who recommended admission to 
medicine
for monitoring and BP control.

Upon arrival to the floor, patient confirms the above history.
She notes that she took amlodipine for ___ years and only recently
had issues with swelling. Upon discontinuation of the medication
she reports resolution of the lower extremity edema. She did not
notice headaches or dizziness while on coreg at 12.5 bid, but 
did
once the dose was increased to 25 mg bid about a week ago. She
reports that she took 25 mg coreg this morning and then 12.5 mg
additional due to elevated blood pressure before coming in to 
the
hospital. Her headache continues at ___, diffusely across her
head. It has been on and off today and alleviated well by
Tylenol. It comes on gradually. Prior to switching amlodipine to
carvedilol, patient reports home SBPs typically in 130s.

==================
REVIEW OF SYSTEMS:
==================
Complete ROS obtained and is otherwise negative.

 
Past Medical History:
- HTN
- h/o renal transplant ___ HTN nephropathy in ___ 
- HLD
- Vertigo
 
Social History:
___
Family History:
Mother had an MI in her ___. Father had lung cancer.
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VITALS:
98.1  BP 176 / 94   HR 54    RR 20  SPO2 96 RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM. Tenderness to palpation on bilateral maxillary and frontal
sinuses.
NECK: No cervical lymphadenopathy. No elevated JVP. Full range 
of
motion without nuchal pain or rigidity.
CARDIAC: Regular rhythm, low rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normoactive bowel sounds, non distended, non-tender to
deep palpation in all four quadrants. No organomegaly. No graft
tenderness.
EXTREMITIES: No clubbing, cyanosis. Pulses DP/Radial 2+
bilaterally. Trace edema in the lower extremities.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:
=========================
VS: 98.0 PO| 128 / 77| 58|18|96Ra
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM. 
NECK: No cervical lymphadenopathy. No elevated JVP. Full range 
of
motion without nuchal pain or rigidity.
CARDIAC: Regular rhythm, low rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normoactive bowel sounds, non distended, non-tender to
deep palpation in all four quadrants. No organomegaly. No graft
tenderness.
EXTREMITIES: No clubbing, cyanosis. Pulses DP/Radial 2+
bilaterally. Trace edema in the lower extremities.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

 
Pertinent Results:
ADMISSION LABS:
================
___ 02:30PM BLOOD WBC-10.3* RBC-4.19 Hgb-13.3 Hct-40.6 
MCV-97 MCH-31.7 MCHC-32.8 RDW-13.1 RDWSD-46.5* Plt ___
___ 02:30PM BLOOD Neuts-47.7 ___ Monos-10.6 Eos-1.6 
Baso-0.6 Im ___ AbsNeut-4.92 AbsLymp-4.05* AbsMono-1.09* 
AbsEos-0.17 AbsBaso-0.06
___ 02:30PM BLOOD Glucose-99 UreaN-23* Creat-0.9 Na-144 
K-4.3 Cl-103 HCO3-26 AnGap-15
___ 08:37AM BLOOD Calcium-9.1 Phos-4.4 Mg-1.6

IMAGING:
=========

RENAL TRANSPLANT US ___:
 
IMPRESSION:  
  
Essentially unremarkable renal transplant ultrasound, apart from 
2 simple 
upper pole renal cysts. 

CT HEAD ___:
  
IMPRESSION:  
  
No acute intracranial hemorrhage.  No acute fracture. 
  
NOTIFICATION: 
1. No acute intracranial hemorrhage or large territorial 
infarct.  No acute 
fracture. 
  

CXR:

  
IMPRESSION:  
  
No acute intrathoracic process. 

INTERVAL LABS:
=================
___ 08:37AM BLOOD Glucose-95 UreaN-24* Creat-1.2* Na-142 
K-3.9 Cl-101 HCO3-25 AnGap-16
___ 10:20AM BLOOD Glucose-94 UreaN-33* Creat-1.3* Na-144 
K-4.4 Cl-102 HCO3-24 AnGap-18
___ 08:30AM BLOOD Glucose-87 UreaN-36* Creat-1.3* Na-147 
K-4.4 Cl-105 HCO3-23 AnGap-19*
___ 08:37AM BLOOD Cyclspr-179
___ 07:15AM BLOOD Cyclspr-156
___ 08:30AM BLOOD Cyclspr-190
___ 07:20AM BLOOD Cyclspr-102

DISCHARGE LABS:
=================

___ 07:20AM BLOOD WBC-13.1* RBC-3.77* Hgb-11.9 Hct-36.1 
MCV-96 MCH-31.6 MCHC-33.0 RDW-13.1 RDWSD-45.5 Plt ___
___ 07:20AM BLOOD Glucose-87 UreaN-25* Creat-0.9 Na-144 
K-3.9 Cl-106 HCO3-24 AnGap-14
___ 07:20AM BLOOD Cyclspr-___ with HTN, h/o renal transplant ___ HTN nephropathy in ___ 
(on azathioprine, cyclosporine, prednisone) and recent sinusitis 
who presents with dizziness and HA. 

=============
ACUTE ISSUES:
=============
# Headache
# Acute sinusitis
Patient presented with headache with conern for hypertensive 
urgency. NCHCT without acute intracranial pathology. Symptoms 
more suggestive of sinusitis with increased sinus pressure. She 
was recently diagnosed with sinusitis and started on amoxicillin 
___. Continued amoxicillin course for sinusitis to complete 7 
day course- last day ___. She was started on fluticasone BID. 
Tyelnol for pain control.

#Hypertension: 
SBP initially >200 in ED but improved with tylenol. Suspect 
secondary to headache and pain. Neuro exam without deficit, 
reassuring against hypertensive emergency. Resumed home 
carvedilol. Hydralazine was used as needed. Maintained MAP>65 
per renal recs. 

___ 
Patient with Cr. 1.2 up from 0.9-1.1 baseline. FeNa <1, suspect 
prerenal despite HTN. Sediment was bland. Improved back to 
baseline, w/ holding one dose of cyclosporine, may be due to 
calcineurin inhibitor hypoperfusion effect in setting of 
suprathrapeutic cyclosporine levels. Cr on discharge 0.9

#Dizziness vs. orthostasis
On admission, patient reporting that she notices the dizziness 
when she stands up. She does not feel that the room is spinning. 
The dizziness accompanies the headache. Borderline orthostasis 
though patient asymptomatic with ~16 drop in SBP. 

===============
CHRONIC ISSUES:
===============
#S/P renal transplant: Transplant US without abnormality.
- Reduced cyclosporine (neural) 75mg BID to 50mg BID with daily 
levels (only Neoral and Sandimmune in hospital formulary, no 
Gengraf)
- Continued azathioprine 50mg daily
- Continued prednisone 10mg qod

#HLD
- held home lovastatin as non formulary. Restarted on discharge  


TRANSITIONAL ISSUES:
=====================
[] Continue to monitor blood pressure as outpatient and titrate 
regimen as needed with consideration of adding ACE-inhibitor or 
___.
[] Patient should have repeat cyclosporine level ___ 
[] Should stop fluticasone at PCP appointment if symptoms remain 
resolved 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin 500 mg PO Q8H 
2. Carvedilol 25 mg PO BID 
3. PredniSONE 10 mg PO EVERY OTHER DAY 
4. Lovastatin 20 mg oral DAILY 
5. cycloSPORINE 75 mg oral BID 
6. AzaTHIOprine 50 mg PO DAILY 

 
Discharge Medications:
1.  CycloSPORINE (Neoral) MODIFIED 50 mg PO Q12H  
2.  AzaTHIOprine 50 mg PO DAILY  
3.  Carvedilol 25 mg PO BID  
4.  Lovastatin 20 mg oral DAILY  
5.  PredniSONE 10 mg PO EVERY OTHER DAY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sinusitis
Hypertension 
___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___: 

You were admitted to the hospital because you were having 
headache and dizziness. 

At the hospital, you were found to have high blood pressure. You 
were given medication to improve your blood pressure. You were 
having headache thought to be due to your sinusitis. You were 
continued on antibioitic medication. You were find to have an 
acute kidney injury. You were given IV fluids and your 
cyclosporine dose was adjusted with improvement in your kidney 
function.  

When you leave the hospital, please take all of your 
medications. Please get your labs drawn on ___ to check 
your cyclosporine level. Please follow up with all of your 
doctors ___. 

It was a pleasure caring for you!

Sincerely, 
Your ___ Treatment Team 
 
Followup Instructions:
___